US08212041B2
7-methoxy-N-((6-(2-(triethylsilyl)ethynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine:
To an argon flushed pressure vial (15 mL) was added copper (I) iodide (0.0070 g, 0.037 mmol), PdCl2(dppf)-CH2Cl2Adduct (0.012 g, 0.015 mmol), N-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine (0.050 g, 0.15 mmol), and triethyl(ethynyl)silane (0.13 ml, 0.73 mmol) in acetonitrile (2 mL) followed by triethylamine (0.61 ml, 4.4 mmol). The vial was sealed and stirred at room temperature overnight The solution was concentrated and purified by MPLC (eluted with 0-10% (90:10:1 DCM:MeOH:NH4OH)) to yield the product as a light yellow solid. MS m/z=446.1 [M+1]+. Calc'd for C23H27N7OSi: 445.2.

reactant | N-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | 0.15 mmol, 0.050 g | ClC=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC | C15H12ClN7O
reactant | triethyl(ethynyl)silane | 0.73 mmol, 0.13 ml | C(C)[Si](C#C)(CC)CC | C8H16Si
reactant | triethylamine | 4.4 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | copper (I) iodide | 0.037 mmol, 0.0070 g | [Cu]I
product | 7-methoxy-N-((6-(2-(triethylsilyl)ethynyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine | COC1=CN=C2C(=CC=NC2=C1)NCC1=NN=C2N1N=C(C=C2)C#C[Si](CC)(CC)CC | C23H27N7OSi
